US04035385
A solution of 5.1 g. of 10-ethynyl-8-chloro-dibenzo[b,f]-thiepin in 40 ml. of absolute dioxane is treated with 630 mg. of paraformaldehyde, 4.5 ml. of a 6-M solution of dimethylamine in dioxane and 200 mg. of copper (II) acetate. The mixture is heated at 100° C. in a well-sealed flask for 2 hours. After cooling, the mixture is poured onto ice and then acidified with 3-N methanesulfonic acid. The neutral products are removed by extraction with ether. The aqueous phase is made alkaline with ammonia. By extraction with ether, there is obtained N,N-dimethyl-3-[8-chloro-dibenzo[b,f]thiepin-10-yl]-2-propynylamine, which melts at 118°-120° C. after recrystallization from hexane. The maleate melts at 178°-180° C.

reactant | 10-ethynyl-8-chloro-dibenzo[b,f]-thiepin | C(#C)C1=CC2=C(SC3=C1C=C(C=C3)Cl)C=CC=C2 | C16H9ClS
reactant | paraformaldehyde | C=O | CH2O
reactant | dimethylamine | CNC | C2H7N
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | copper (II) acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | N,N-dimethyl-3-[8-chloro-dibenzo[b,f]thiepin-10-yl]-2-propynylamine | CN(C)CC#CC1=CC2=C(SC3=C1C=C(C=C3)Cl)C=CC=C2 | C19H16ClNS
